US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic-acid methyl ester
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid was coupled to (S)-2-amino-3-(3-bromo-4-chloro-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C, to afford the title compound. HPLC: RT=10.85 min. MS (ESI+): mass calcd. for C23H17BrClIN4O5S2, 735.80; m/z found, 735/737 [M+H]+. 1H NMR (500 MHz, CDCl3): 11.31 (s, 1H), 8.36 (d, J=7.1, 1H), 8.22 (d, J=8.7, 1H), 8.08 (d, J=1.4, 1H), 7.72 (dd, J=8.8, 7.1, 1H), 7.36-7.28 (m, 3H), 6.96-6.90 (m, 2H), 6.46 (d, J=7.1, 1H), 4.93 (q, J=5.5, 1H), 3.82(s, 3H), 3.23-3.10 (m, 2H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)I | C13H8IN3O4S2
reactant | (S)-2-amino-3-(3-bromo-4-chloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=C(C=C1)Cl)Br)N)=O
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic-acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)Cl)Br)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17BrClIN4O5S2
